US04236912
2-(4-((6-Chloro-2-quinolinyl)oxy)phenoxy)propionic acid
2-(4-Hydroxyphenoxy)propionic acid (2.85 gm, 0.0156 mole) was dissolved in 60 ml of dimethylsulfoxide. A solution of sodium hydroxide (1.25 gm, 0.031 mole) in 2.0 ml of water was added and the mixture stirred for a few minutes to insure complete conversion to the disodium salt. 2,6-Dichloroquinoline (3.1 gm, 0.0126 mole) was dissolved in 50 ml of DMSO and then added all at once to the sodium phenate solution. The reaction mixture was then heated to about 125° C. and stirred at this temperature for 3.0 hours. At the end of this time it was cooled, poured into 350 ml of cold water and acidified with concentrated hydrochloric acid. The precipitated crude product was collected on a filter, washed with fresh water, sucked damp dry and taken up in hot toluene. It was then dried over sodium sulfate, treated with "Norite", filtered and the filtrate concentrated and chilled to precipitate the white crystalline 2-(4-((6-chloro-2-quinolinyl)oxy)phenoxy)propionic acid.

reactant | 2-(4-Hydroxyphenoxy)propionic acid | 0.0156 mole, 2.85 gm | OC1=CC=C(OC(C(=O)O)C)C=C1 | C9H10O4
reactant | sodium hydroxide | 0.031 mole, 1.25 gm | [OH-].[Na+]
reactant | disodium | [Na][Na] | 2Na
reactant | 2,6-Dichloroquinoline | 0.0126 mole, 3.1 gm | ClC1=NC2=CC=C(C=C2C=C1)Cl | C9H5Cl2N
reactant | sodium phenate | C1=CC=C(C=C1)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylsulfoxide | 60 ml | CS(=O)C | C2H6OS
solvent | water | 2.0 ml | O | H2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | water | 350 ml | O | H2O
product | 2-(4-((6-Chloro-2-quinolinyl)oxy)phenoxy)propionic acid | ClC=1C=C2C=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)O)C)C=C1 | C18H14ClNO4
